US04749379
EXAMPLE 12 Preparation of 2-(β,γ-dihydroxypropoxy)-4-n-butylamino-5-nitrophenol
0.128 mol (8.5 g) of 85% pure potassium hydroxide pellets is dissolved in 70 ml of double-distilled glycerol on a boiling water bath. 2-n-butylamino-4,5-methylenedioxy-1-nitrobenzene, prepared according to Example 4, is added with stirring.

reactant | potassium hydroxide | 0.128 mol, 8.5 g | [OH-].[K+]
reactant | 2-n-butylamino-4,5-methylenedioxy-1-nitrobenzene | C(CCC)NC1=C(C=C2C(=C1)OCO2)[N+](=O)[O-] | C11H14N2O4
reactant | glycerol | 70 ml | OCC(O)CO | C3H8O3
product | 2-(β,γ-dihydroxypropoxy)-4-n-butylamino-5-nitrophenol | OC(COC1=C(C=C(C(=C1)NCCCC)[N+](=O)[O-])O)CO | C13H20N2O6
